US07399759B2
2-Cyano-6-methylthiopyridine
A mixture of 2-chloro-6-cyanopyridine (0.70 g, 5.0 mmol), sodium thiomethoxide (0.39 g, 5.5 mmol) and tetrahydrofuran (50 ml) was stirred at 90° C. for 18 hrs. The reaction mixture was concentrated under reduced pressure, combined with water and extracted with ethyl acetate. The extract was washed with saturated brine and dried, and the solvent was evaporated under reduced pressure to give the titled compound as an oil (0.76 g, 98%).

reactant | 2-chloro-6-cyanopyridine | 5.0 mmol, 0.70 g | ClC1=NC(=CC=C1)C#N | C6H3ClN2
reactant | sodium thiomethoxide | 5.5 mmol, 0.39 g | C[S-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Cyano-6-methylthiopyridine | 0.76 g, 98% | C(#N)C1=NC(=CC=C1)SC | C7H6N2S
